data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,5592,"CC(C)[C:1]1([H:2])C2=C(C=CC=C2)C=C[C+:3]1C.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,9720,"C[Si-:1]1(C)(C)[CH2:2][CH:3](CC2=C(I)C=C3OCOC3=C2)[O:4]1|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9154,"CO[C+:1]1C=CO[C:2]1(S(=O)(=O)O)[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,4665,"CCCC1=CC(=[O+:1][H:2])CC(C)(C)O1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8443,"CCC(C)O[S:1](=O)(C(F)(F)F)([O-:2])[O:3]S(=O)(=O)C(F)(F)F|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,483,"[CH2:1]([NH2:2])[F:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5601,"CO[C:1](C)=[OH+:2].[SH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1128,"[BH3-][OH+:1][CH2:2][NH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5004,"O=C(O)C1=C(C(O)(NCC2=CC=CC=C2)[OH+:1][H:2])C=CC=C1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1660,"N#CC1=CC2=C(C=C1)C=C[CH+:1][C:2]2([N+](=O)[O-])[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,1612,"CC[NH+](CC)CC.ClC[C:1](NC1=C2C=CC=CC2=CC=C1)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,769,"C=[CH:1][Li:2].CC1(C)CC=C[C:3](=[O:4])C1|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7542,"OCC[O+:1]=[C:2]1CCC(C(O)(C2=CC=CC=C2)C2=CC=CC=C2)CC1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1374,"CCC1C=CC(O)C(CCCC#N)C1C(=O)N[NH2:1].O=C([O-])[O][K].[CH3:2][I:3].[K+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3770,"C1=CC=C(CC=CC[O-:1])C=C1.O=[S+](=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,566,"C[N:1](C)[CH2:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7321,"CC(C)C(N)C(=O)[O-].CC1=C2CCC(=O)C2(C)CC[C:1]1=[NH+:2]C(C(=O)O)C(C)C.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9707,"C[S:1]C.[Cl:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7951,"CC(=O)[O-:1].COC1=CC(C[O+:2](I2(OC(C)=O)(OC(C)=O)OC(=O)C3=C2C=CC=C3)[H:3])=NC(OC)=N1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9611,"C=CC[OH:1].CCN(CC)CC.Cl[C:2](CC1=CC=CC=C1)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6271,"CC[OH:1].COC(=O)NN(C(=O)OC)[P+:2](C)(C)C|(1, 2)"
train,pmechdb_split_0,0,3271,"B.CC1(C)OC(C(CO)OCC2=CC=CC=C2)C(C(OCC2=CC=CC=C2)[CH:1]=[O:2])O1.CO.[H:3][BH3-:4].[Na+]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,8712,"C[O+](C)[Si-:1](C)(C)(C)[O:2]C|((1, 2), 2)"
train,pmechdb_split_0,0,8501,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CC1=CC=CC=C1.CC1=C[CH:1]([H:2])[C:3](C2=C(OCC3=CC=CC=C3)C=CC(Cl)=C2)=[N+:4]1C1=CC(S(N)(=O)=O)=CC=C1.[OH2:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7087,"C1=CC=NC=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.CCCC[NH:1][C:2]1([OH2+:3])CCCC2=C(Br)C=NC=C21|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2219,"C=CC=[O:1].[H:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9167,"CC=CC[O-:1].Cl[S:2](Cl)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4531,"CCC1CC([OH+:1][H:2])=NC2=CC=CC=C21.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2247,"CCC[CH:1]=[O+:2][Al-:3]([CH2]C(C)C)([CH2]C(C)C)[H:4]|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,5435,"C=CCOC(=O)N1CCCC1C(=O)NC=CC1=C(OC)C=CC(OC2CCN(C(=O)OC(C)(C)C)C2CO[I:1]2(OC(C)=O)([O:2]C(C)=O)OC(=O)C3=C2C=CC=C3)=C1.CC(=O)O|((1, 2), 2)"
train,pmechdb_split_0,0,7451,"COC1=C(C)C=C2CC3(C)C(O)CCC(C2=C1)C3(O)[N:1]1CCCC1.[Cl-].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4629,"CCC[CH2][Sn]([CH2][CH+]CC([O][Ti-:1]([O]C(C)C)([O]C(C)C)([O]C(C)C)[O:2]C(C)C)C(C)=CC1=CSC(C)=N1)([CH2]CCC)[CH2]CCC|((1, 2), 2)"
train,pmechdb_split_0,0,6044,"[Li][N:1]([N:2]=CC1=CN(S(=O)(=O)C2=CC=C(C)C=C2)C2=C1C=CC=C2)[S:3](=O)(=O)C1=CC=C(C)C=C1.[Li][OH+]C(C)(C)C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5304,"CO[P:1](Cl)OC.C[N+:2](C)(C)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4356,"CCSC[CH:1]=[C:2](N(CC)CC)[OH:3].O=S(=O)(O)[O:4][H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,777,"C[Si](C)(C)C[C:1]#[C:2]CC1=C([NH+:3]=[CH:4]C2=CC=CS2)C=CC=C1.O=P([O-])(OC1=CC=CC=C1)OC1=CC=CC=C1|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,355,"F[B:1](F)F.OC=[O:2]|(2, 1)"
train,pmechdb_split_0,0,773,"C#CC[C+:1]1C=CC=C[C:2]1(S(=O)(=O)O)[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,6696,"O=S(=O)(O)[O-:1].OCC[O+:2](C1(O)CCCCC1)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1081,"CC(=O)[O:1][H:2].CCC12C=CCN3CCC4(C5=C(C=CC=C5)[N:3]=C4CC1)C32.[BH3-]C#N.[Na+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1613,"C[C:1](=[CH:2]CCCC[CH2:3][Br:4])[O-:5]|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6346,"O=S(=O)(O)C1=CO[C:1](Br)([H:2])[CH+:3]1.[Br-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,6908,"C1=CC=C(CCC=[O:1])C=C1.C=C=C[Si](C)(C)C.[Cl][Ti:2]([Cl])([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,8772,"CCCCCC(CCCCC)[O:1][H:2].[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,9451,"CCOC(=O)C(Br)CCC[CH:1](C(=O)OCC)[Br:2].N#[C-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9307,"CCCCCC1=CC=C([CH:1]([C:2](C)([C:3]2=CC=CC(C3CCCCC3)=C2)[OH:4])[OH2+:5])C=C1.O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1|(4, 2);((2, 3), 1);((1, 5), 5)"
